US06284785B1
(RS)-2-(4-Fluoro-phenyl)-1-(toluene-2-sulfonyl)-pyrrolidine
The title compound, colorless oil, MS: m/e=319 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and toluene-2-sulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | toluene-2-sulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-2-(4-Fluoro-phenyl)-1-(toluene-2-sulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C=1C(=CC=CC1)C | C17H18FNO2S
